US05151442
Trans-4-(4-chloroanilino)-6-cyano-2,2-dimethyl-3-hydroxychroman (SR 44546)
A solution of 3 g of 6-cyano-2,2-dimethyl-3,4-epoxychroman and 2.1 g of parachloroaniline in 50 ml of ethanol is refluxed for 72 hours.

reactant | 6-cyano-2,2-dimethyl-3,4-epoxychroman | 3 g | C(#N)C=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C12H11NO2
reactant | parachloroaniline | 2.1 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Trans-4-(4-chloroanilino)-6-cyano-2,2-dimethyl-3-hydroxychroman | ClC1=CC=C(N[C@H]2[C@@H](C(OC3=CC=C(C=C23)C#N)(C)C)O)C=C1 | C18H17ClN2O2
